US08461348B2
(2E)-3-[3-(trifluoromethyl)phenyl]prop-2-enal
3-(Trifluoromethyl)benzaldehyde (0.70 g) was dissolved in toluene (16 mL), and (triphenylphosphoranylidene)acetoaldehyde (1.22 g) was added. The reaction mixture was heated under reflux for 40 hr and concentrated, and the residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give the title compound (0.41 g) as an oil.

reactant | 3-(Trifluoromethyl)benzaldehyde | 0.70 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | (triphenylphosphoranylidene)acetoaldehyde | 1.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | (2E)-3-[3-(trifluoromethyl)phenyl]prop-2-enal | 0.41 g | FC(C=1C=C(C=CC1)/C=C/C=O)(F)F | C10H7F3O
